US05223539
N-cyclohexyl-4-(4-ethoxyphenoxy)-N-(1-methylethyl)benzamide
The reaction and workup are carried out in the same manner as described for Example 1 using p-bromobenzoic acid N-isopropyl-N-cyclohexyl amide (1.75g, 5.40 mmol), 4-ethoxy phenol (796 mg, 5.76 mmol) and cuprous oxide (390 mg, 2.73 mmol) in collidine (15 ml). The crude product is chromatographed on silica gel using mixtures of ethyl acetate and hexane as eluents to give the title compound.

reactant | p-bromobenzoic acid N-isopropyl-N-cyclohexyl amide | 5.40 mmol, 1.75g | C(C)(C)N(C(C1=CC=C(C=C1)Br)=O)C1CCCCC1 | C16H22BrNO
reactant | 4-ethoxy phenol | 5.76 mmol, 796 mg | C(C)OC1=CC=C(C=C1)O | C8H10O2
solvent | collidine | 15 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | N-cyclohexyl-4-(4-ethoxyphenoxy)-N-(1-methylethyl)benzamide | C1(CCCCC1)N(C(C1=CC=C(C=C1)OC1=CC=C(C=C1)OCC)=O)C(C)C | C24H31NO3
